US09416138B2
3,4-Dihydro-2H-1,4-benzoxazin-2-ylmethanamine
Add 3,4-dihydro-2H-1,4-benzoxazine-2-carbonitrile (600 mg, 3.75 mmol) to THF (20 mL) and then slowly add lithium aluminum hydride (1.0 M in THF; 1 mL, 1.0 mmol). Stir the mixture at ambient temperature for 30 minutes. Add H2O (1 mL) to quench the reaction; filter; and wash the filter cake with EtOAc. Dry the filtrate over Na2SO4; filter; and concentrate the filtrate under reduced pressure to afford a residue. Purify the resulting compound via flash column chromatography using a gradient of 20-50% of MeOH in DCM. Combine the desired fractions and remove the solvents under reduced pressure to provide the title compound as a white solid (390 mg, 63.1%). MS (m/z): 165 (M+1).

reactant | 3,4-dihydro-2H-1,4-benzoxazine-2-carbonitrile | 3.75 mmol, 600 mg | O1C(CNC2=C1C=CC=C2)C#N | C9H8N2O
reactant | lithium aluminum hydride | 1.0 mmol, 1.0 M, 1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3,4-Dihydro-2H-1,4-benzoxazin-2-ylmethanamine | 390 mg, 63.1% | O1C(CNC2=C1C=CC=C2)CN | C9H12N2O
